US06855710B2
(Z)-3-{1-[4-(N-Diethylaminomethylcarbonyl-N-methyl-amino)-phenylamino]-1-phenyl-methylidene}-2-indolinone
Prepared analogously to Example 43 from 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone and 4-(N-diethylaminomethylcarbonyl-N-methyl-amino)-aniline in DMF and subsequent treatment with sodium hydroxide solution in methanol.

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)OCC)=O | C19H17NO3
reactant | 4-(N-diethylaminomethylcarbonyl-N-methyl-amino)-aniline | C(C)N(CC)CC(=O)N(C)C1=CC=C(N)C=C1 | C13H21N3O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | (Z)-3-{1-[4-(N-Diethylaminomethylcarbonyl-N-methyl-amino)-phenylamino]-1-phenyl-methylidene}-2-indolinone | C(C)N(CC)CC(=O)N(C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C28H30N4O2
